US06596719B1
According to Example 4a) with DBU instead of Hünig's base, 200 mg N-[6-(2-amino-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-4-tert.-butyl-benzenesulfonamide was reacted with tosylchloride to give 147 mg 4-tert.-butyl-N-{6-[2-(toluenesulfonyl-amino)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-benzenesulfonamide. LC-MS: tR=5.85 min, [M−1]−=593.50.

reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N-[6-(2-amino-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-4-tert.-butyl-benzenesulfonamide | 200 mg | NCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C23H28N4O3S
reactant | tosylchloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
product | 4-tert.-butyl-N-{6-[2-(toluenesulfonyl-amino)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-benzenesulfonamide | 147 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCNS(=O)(=O)C=1C(=CC=CC1)C | C30H34N4O5S2
